US08859768B2
To a solution of N-{4-[5-(2-chloro-5-formylphenyl)-4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,2,4-triazol-3-yl)-2-furyl]-5-methylpyridin-2-yl}acetamide (0.19 g, 0.34 mmol) in DCM (10 mL) was added pyrrolidine (0.14 mL, 1.68 mmol) and STAB (0.21 g, 1.01 mmol). The mixture was allowed to stir at rt overnight. The mixture was diluted with water and extracted with DCM. The organic solutions were combined, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography to give N-(4-{5-[2-chloro-5-(pyrrolidin-1-ylmethyl)phenyl]-4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,2,4-triazol-3-yl)-2-furyl}-5-methylpyridin-2-yl)acetamide (0.20 g, 100%). LCMS (FA): m/z=607.7 (M+H).

reactant | N-{4-[5-(2-chloro-5-formylphenyl)-4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,2,4-triazol-3-yl)-2-furyl]-5-methylpyridin-2-yl}acetamide | 0.34 mmol, 0.19 g | ClC1=C(C=C(C=C1)C=O)C1=C(C=C(O1)C1=CC(=NC=C1C)NC(C)=O)C1=NN(C=N1)COCC[Si](C)(C)C | C27H30ClN5O4Si
reactant | pyrrolidine | 1.68 mmol, 0.14 mL | N1CCCC1 | C4H9N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(4-{5-[2-chloro-5-(pyrrolidin-1-ylmethyl)phenyl]-4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,2,4-triazol-3-yl)-2-furyl}-5-methylpyridin-2-yl)acetamide | 0.20 g, 100% | ClC1=C(C=C(C=C1)CN1CCCC1)C1=C(C=C(O1)C1=CC(=NC=C1C)NC(C)=O)C1=NN(C=N1)COCC[Si](C)(C)C | C31H39ClN6O3Si
